US05712300
Preparation of N-Methyl-3-(2-methylpropyl)-2-oxo-3-(propen-2-yl)-1-pyrrolidineacetamide
Ethyl 3-(2-methylpropyl)-2-oxo-3-(propen-2-yl)-1-pyrrolidineacetate (500 mg, 1.87 mmol) is stirred in a saturated solution of methylamine in EtOH (50 mL) at room temperature overnight. The solution is concentrated and purified by column chromatography (1:12:8 v/v CH2Cl2 :EtOAc:hexane) to give 401 mg (85%) of the title compound as an oil.

reactant | Ethyl 3-(2-methylpropyl)-2-oxo-3-(propen-2-yl)-1-pyrrolidineacetate | 1.87 mmol, 500 mg | CC(CC1(C(N(CC1)CC(=O)OCC)=O)C(=C)C)C | C15H25NO3
reactant | methylamine | CN | CH5N
solvent | EtOH | 50 mL | CCO | C2H6O
product | N-Methyl-3-(2-methylpropyl)-2-oxo-3-(propen-2-yl)-1-pyrrolidineacetamide | 401 mg, 85% | CNC(CN1C(C(CC1)(C(=C)C)CC(C)C)=O)=O | C14H24N2O2
